US06528525B1
(a) Ethyl 3-(3-chloro-4-hydroxyphenyl)-2-phenoxypropionate
A solution of sulfuryl chloride (0.71 ml) in diethyl ether (5 ml) was added dropwise to a solution of ethyl 3-(4-hydroxyphenyl)-2-phenoxypropionate (1.43 g) in diethyl ether (20 ml) at ambient temperature. The mixture was stirred for 8 hour and allowed to stand overnight. The reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified via chromatography on a silica gel column using hexane/ethyl acetate=10/3 as the eluant to afford the desired compound (1.09 g) as a colorless oil.

reactant | sulfuryl chloride | 0.71 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl 3-(4-hydroxyphenyl)-2-phenoxypropionate | 1.43 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C17H18O4
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Ethyl 3-(3-chloro-4-hydroxyphenyl)-2-phenoxypropionate | 1.09 g | ClC=1C=C(C=CC1O)CC(C(=O)OCC)OC1=CC=CC=C1 | C17H17ClO4
